### PR TITLE
Categorical constructs and recursion schemes

### PR DESCRIPTION
**Pull request by WorldSEnder**
### For now, this is just a tracking PR, mainly for early feedback. This is not ready to be merged.

This is showing an approach to recursion schemes in agda. We formulate them over an initial algebra. For this purpose, I generalize a few things in Categories. Centrally, the definition for a category. This would then be a breaking change, ofc. The main reason to introduce this more general notion is that we are then able to formulate and reason in the categories of Algebras without pain.

```
record Category ℓ : Set (suc (suc ℓ)) where
  infix  4 _≈_ _⇒_
  infixr 9 _∘_
  field
    Obj : Set (suc ℓ)
    _⇒_ : Obj → Obj → Set ℓ
    _≈_ : ∀ {A B} → Rel (A ⇒ B) ℓ
    id  : Reflexive _⇒_
    _∘_ : TransFlip _⇒_ _⇒_ _⇒_
```
Most importantly, the categorical constructions we have right now are preservable and pushed to `Category.Construct.Agda` which implements a category with pointwise morphism equality and objects up to some level.

We end up with the following construction of `cata` and (for now) refl + fusion law.

```
cata : ∀ {U} → fun U ⇒ U → I ⇒ U
cata-refl : ⦅ Universal ⦆ ≈ id
cata-fusion : ∀ {ψ : Algebra F}{ϕ : Algebra F}{f : Carrier ϕ ⇒ Carrier ψ}
              → evaluate ψ ∘ fmap f ≈ f ∘ evaluate ϕ
              → f ∘ ⦅ ϕ ⦆ ≈ ⦅ ψ ⦆
```
That being said, `Category.RecursionSchemes`, the central module, takes an aweful lot of implicit parameters, and the code is not really clean there. Any feedback is welcome.

### CODE REVIEW

**Comment by gallais** [comment]
A couple of remarks:

* I think `Category` should be indexed by 3 levels rather than 1: that of the objects, that of the arrows, and that of the equivalence relation
* Talking about the equivalence relation: why is it included if there are no constraints attached to it?

**Comment by WorldSEnder** [comment]
I will introduce 3 levels even if in most cases you can just (even implicitly) lift to the highest internal level. 

I reason that equivalence is part of `Category` even without laws is that we can at least talk about it in `IsFunctor` (from C -> D) without require `IsCategory` for both C and D.

File: src/Category/Category.agda [hunk 1]
```diff
@@ -0,0 +1,22 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- A definition of category. 
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Category.Category where
```
Comment (MatthewDaggitt) [inline src/Category/Category.agda]: Not so keen on this module name. I think it should be just `Category`

File: src/Category/Algebra.agda [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+        algw = evaluate aw
+        tvw = translation vw
+        tuv = translation uv
+
+    module _ {algu : Algebra} {algv : Algebra} where
+      infix 4 _≈alg_
+      record _≈alg_ (m : AlgebraMorphism algu algv) (n : AlgebraMorphism algu algv) : Set ℓ where
+        field
+          morphs-eq : translation m ≈ translation n
+      open import Relation.Binary
```
Comment (MatthewDaggitt) [inline src/Category/Algebra.agda]: This should go at the top of the file. If the names conflict then they should be qualified by renaming the module as `B` or something similar.

File: src/Category/Algebra.agda [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+      evaluate : fun Carrier ⇒ Carrier
+  open Algebra public
+
+  open import Category.Structures
+  module AlgebraCategory (isCat : IsCategory cat) (isFun : IsFunctor cat cat F) where
+    open IsCategory isCat
+    open IsFunctor isFun
+    open ≈-Reasoning
+
+    record AlgebraMorphism (algu : Algebra) (algv : Algebra) : Set ℓ where
```
Comment (MatthewDaggitt) [inline src/Category/Algebra.agda]: Given that this definition is inside a module named `Category.Algebra` it probably doesn't need `Algebra` in the name and should just be called `Morphism`.

File: src/Category/Category.agda [hunk 4]
```diff
@@ -0,0 +1,22 @@
...
+
+open import Level using (suc)
+open import Relation.Binary using (Reflexive; TransFlip; Rel)
+
+record Category ℓ : Set (suc (suc ℓ)) where
```
Comment (MatthewDaggitt) [inline src/Category/Category.agda]: The records `Category` and `IsCategory` don't obey the conventions found elsewhere in the library. For instance if I'm understanding it's purpose correctly then `Category` should probably be called `RawCategory`. `IsCategory` shouldn't be parameterised by `RawCategory`, instead it should be parameterised by it's components. There should then be a new record `Category` that wraps the components along with a `IsCategory` field.

File: src/Category/Algebra.agda [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+      { translation = id
+      ; commutes = begin
+        evaluate alg ∘ fmap id ≈⟨ fmap-identity over evaluate alg ⟩
+        evaluate alg ∘ id      ≈⟨ identityʳ ⟩
+        evaluate alg           ≈⟨ ≈sym identityˡ ⟩
+        id ∘ evaluate alg      ∎
+      }
+
+    infixr 9 _∘alg_
+    _∘alg_ : ∀ {algu algv algw : Algebra}
```
Comment (MatthewDaggitt) [inline src/Category/Algebra.agda]: This infix notation isn't much use as it lies within an anonymous module with an explicit argument.

File: src/Category/Construct/Agda.agda [hunk 6]
```diff
@@ -0,0 +1,67 @@
...
+  ; _⇒_ = λ A B → A → B
+  ; _≈_ = _≗_
+  ; id = Function.id
+  ; _∘_ = Function._∘′_
+  }
+
+-- these construction recover the old definitions of RawFunctor and Morphism
+-- and provide a way to upgrade them to the generalized version
+module _ {ℓ : Level} where
+  open import Category.Functor (agdaCat ℓ) (agdaCat ℓ)
```
Comment (MatthewDaggitt) [inline src/Category/Construct/Agda.agda]: These imports should go at the top of the file, and be given aliases that can then be opened here.

**Comment by MatthewDaggitt** [comment]
Added a few of my initial thoughts. I also wanted to ask what the relationship between this work and the more official [Categories](https://github.com/agda/categories) library here? I seem to remember someone (possibly @JacquesCarette?) discussing whether or not it should be merged with the standard library in future?

**Comment by JacquesCarette** [comment]
Yes, it is definitely my intent of taking the Categories library and **incrementally** import it into the standard library.

The main reason I have not yet started is that I want to figure out whether to make StrictCategory the default, or WeakCategory (what the [Categories library](https://github.com/agda/categories) just calls Category).  I'm leaning towards WeakCategory, but I wanted to have a proper 'debate' about this design choice in a public forum first.

There are many (many!) brilliant design choices in that library [I'm just a maintainer], and they should be re-used as much as possible.  There are a few sub-optimal choices too, but few of them are in the 'basic' parts of the library. There are also **choices** (like Weak vs Strict) that need to be vetted, as we don't want to much churn going forward on the 'standard' library.

**Comment by WorldSEnder** [comment]
I definitely had my eyes on the mentioned library as a reference model. One basic design decision that I've noticed: The proofs for what would be `IsCategory` are declared irrelevant. I would rather have them relevant and use squash in the construction of the specific category, where appropriate.

I can't say too much about weak vs strict categories but will trust in what Jacques says :)

Regarding incremental imports, the goal of the PR is to import as much as is needed to formulate the recursion schemes but not an aweful lot more. An open question here: For eventual anamorphisms duality would probably come in helpful, so I could include Kan extensions?

**Comment by MatthewDaggitt** [comment]
@WorldSEnder Is it possible to for you to work with the formulation in the Categories library? If so I'd recommend to do so. If not then I think the best course of action is probably to open an issue in the Categories library to discuss how that could be addressed.

Given that the Categories library is hopefully going to be incorporated into the Standard Library, I'm a little reluctant to merge this in and go off in another direction with the core definitions...

**Comment by WorldSEnder** [comment]
If you want to merge that in seperately, I can put this on ice for now and continue later?

**Comment by MatthewDaggitt** [comment]
> If you want to merge that in seperately, I can put this on ice for now and continue later?

Yes, that's probably the best idea. Please do open another PR, either in the Categories library, or here after enough definitions from there have been merged in!
